US07259177B2
tert-Butyl (S)-2-((4-methoxyphenoxycarbonyl)-{2-[cis-3-(5-methyl-2-m-tolyl-oxazol-4-ylmethoxy)cyclohexyl]ethyl}amino)-3-methylbutyrate
130 mg of tert-butyl (S)-3-methyl-2-{2-[cis-3-(5-methyl-2-m-tolyloxazol-4-yl-methoxy)cyclohexyl]ethylamino}butyrate are dissolved in 1 ml of methylene chloride, 2 ml of a sat. sodium carbonate solution are added and the mixture is cooled to 0° C., an excess of the acid chloride is then added and the mixture is stirred at RT for 1 h. The entire reaction solution is applied to a kieselguhr cartridge and the cartridge is washed with 20 ml of methylene chloride. The solvent is removed under reduced pressure. This gives 0.1 g of tert-butyl (S)-2-((4-methoxyphenoxycarbonyl)-{2-[cis-3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyl]ethyl}amino)-3-methylbutyrate.

reactant | tert-butyl (S)-3-methyl-2-{2-[cis-3-(5-methyl-2-m-tolyloxazol-4-yl-methoxy)cyclohexyl]ethylamino}butyrate | 130 mg | CC([C@@H](C(=O)OC(C)(C)C)NCC[C@@H]1C[C@@H](CCC1)OCC=1N=C(OC1C)C=1C=C(C=CC1)C)C | C29H44N2O4
reactant | sodium carbonate | 2 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyl (S)-2-((4-methoxyphenoxycarbonyl)-{2-[cis-3-(5-methyl-2-m-tolyl-oxazol-4-ylmethoxy)cyclohexyl]ethyl}amino)-3-methylbutyrate | COC1=CC=C(OC(=O)N([C@H](C(=O)OC(C)(C)C)C(C)C)CC[C@@H]2C[C@@H](CCC2)OCC=2N=C(OC2C)C=2C=C(C=CC2)C)C=C1 | C37H50N2O7
